US07960562B2
Acetic anhydride (90 mg) was added to a pyridine (5 mL) solution of N-({3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]phenyl}sulfonyl)-2-hydroxyethanimidamide (225 mg), followed by stirring at room temperature for 2 hours. An excess amount of an aqueous saturated ammonium chloride solution was added, followed by extraction with ethyl acetate. The organic layer was washed with water, concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform/methanol=80/1) and crystallized from ethyl acetate/n-hexane to obtain 2-[({3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]phenyl}sulfonyl)amino]-2-iminoethylacetic acid (150 mg).

reactant | Acetic anhydride | 90 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-({3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]phenyl}sulfonyl)-2-hydroxyethanimidamide | 225 mg | FC=1C=C(C=C(C1)F)C(C(C(=O)C=1C=C(C=CC1)S(=O)(=O)NC(CO)=N)=C1NC2=C(N1)C=CC=C2)=O | C24H18F2N4O5S
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 2-[({3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]phenyl}sulfonyl)amino]-2-iminoethylacetic acid | 150 mg | FC=1C=C(C=C(C1)F)C(C(C(=O)C=1C=C(C=CC1)S(=O)(=O)NC(C(=O)O)CC=N)=C1NC2=C(N1)C=CC=C2)=O | C26H20F2N4O6S
